US04851427
(2-Oxo-2-phenylethyl)triphenylphosphonium bromide (Compound CII)
50.0 g. (251 mmoles) of α-bromoacetophenone (Compound CI) and 65.9 g. (251 mmoles) of triphenylphosphine are stirred in 500 ml. of toluene at 20°-25° C. under nitrogen for 16 hours, and the resulting solid is collected by filtration, rinsed with toluene and rinsed with diethyl ether to obtain the product as a white powder (107.98 g. (93%)).

reactant | α-bromoacetophenone | 251 mmoles | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | triphenylphosphine | 251 mmoles | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2-Oxo-2-phenylethyl)triphenylphosphonium bromide | 107.98 g, 93% | [Br-].O=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H22OP.BrH/c27-26(22-13-5-1-6-14-22)21-28(23-15-7-2-8-16-23,24-17-9-3-10-18-24)25-19-11-4-12-20-25;/h1-20H,21H2;1H/q+1;/p-1
